US09382288B2
16α-Azido-3-methoxy-estra-1,3,5(10)-triene
3.3 g (7.5 mmol) of 3-methoxy-16β-tosyloxy-estra-1,3,5(10)-triene and 0.99 g (15.7 mmol) lithium azide in 66 ml of DMSO are reacted as described above. Yield: 2.15 g (92%), F=80-89° C., after recrystallization from acetone: F=89-92° C.

reactant | 3-methoxy-16β-tosyloxy-estra-1,3,5(10)-triene | 7.5 mmol, 3.3 g | COC1=CC=2CC[C@H]3[C@@H]4C[C@@H](C[C@@]4(C)CC[C@@H]3C2C=C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C26H32O4S
reactant | lithium azide | 15.7 mmol, 0.99 g | [N-]=[N+]=[N-].[Li+]
solvent | DMSO | 66 ml | CS(=O)C | C2H6OS
product | 16α-Azido-3-methoxy-estra-1,3,5(10)-triene | N(=[N+]=[N-])[C@H]1C[C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H25N3O
